US20010047026A1
3-Bromo-5,10-dihydro-indeno[1,2-b]indole-6-carboxylic acid
To a solution of 6-bromoindanone (0.447 g, 2.12 mmol) [Adamczyk, M. et al. J. Org. Chem. 1984, 49, 4226-4237] in ethanol (100 mL) was added a solution of 2-hydrazinobenzoic acid hydrochloride (0.800 g, 4.24 mmol) in deionized water (50 mL). The mixture was stirred for 1 h then cooled to 0° C. The precipitated hydrazone was vacuum filtered and dried in vacuo to afford 0.628 g (86%) of the title compound as a yellow solid: mp 186° C. (dec).

reactant | 6-bromoindanone | 2.12 mmol, 0.447 g | BrC1=CC=C2CCC(C2=C1)=O | C9H7BrO
reactant | 2-hydrazinobenzoic acid hydrochloride | 4.24 mmol, 0.800 g | Cl.N(N)C1=C(C(=O)O)C=CC=C1
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
product | 3-Bromo-5,10-dihydro-indeno[1,2-b]indole-6-carboxylic acid | 0.628 g, 86% | BrC1=CC=C2CC3=C(NC4=C(C=CC=C34)C(=O)O)C2=C1 | C16H10BrNO2
